US08614215B2
Intermediate 50: 2-(4-methoxy-2-nitrophenyl)ethanol
To a solution of (4-methoxy-2-nitrophenyl)acetic acid (400 mg; 1.9 mmol; 1 eq) in THF (10 mL) at 0° C. is added slowly under nitrogen borane-tetrahydrofuran complex (4.74 mL; 1 M; 4.7 mmol; 2.5 eq) and the reaction is stirred overnight at room temperature. No conversion is observed. The reaction mixture is heated at 70° C. for 2 h. The reaction is quenched by addition of water and the expected product is extracted with EtOAc. The organic phase is dried over MgSO4 and the solvent removed under reduced pressure. The residue obtained is purified by the flash chromatography using cyclohexane/EtOAc (7/3) as eluent to afford 350 mg (94%) of the title compound as a yellow oil. 1H NMR (CDCl3) δ 7.20 (d, J=3.0 Hz, 1H), 7.06 (d, J=8.0 Hz, 1H), 6.85 (dd, J=8.0, 3.0 Hz, 1H), 3.66 (t, J=9.0 Hz, 2H), 3.61 (s, 3H), 2.86 (t, J=9.0 Hz, 2H), 1.88 (br s, 1H). HPLC (max plot) 100%; Rt 2.48 min.

reactant | (4-methoxy-2-nitrophenyl)acetic acid | 1.9 mmol, 400 mg, 1 eq | COC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C9H9NO5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxy-2-nitrophenyl)ethanol | 350 mg, 94% | COC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C9H11NO4
